US07732477B2
2-(Hydroxymethyl)-5-nitrophenol
10.0 g (54.6 mmol) of 4-nitrosalicylic acid are initially charged in 100 ml of THF. With ice-cooling, 109 ml of 1 M borane/THF complex are added, and the mixture is stirred at RT overnight. The mixture is concentrated and the precipitate is filtered off with suction. The solid is dissolved in ethyl acetate and dried over magnesium sulfate. After concentration and drying under high vacuum, the title compound is directly reacted further.

reactant | 4-nitrosalicylic acid | 54.6 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)O | C7H5NO5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(Hydroxymethyl)-5-nitrophenol | OCC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
